US05185360
5,10-Dihydro-8-fluoroindeno[1,2-b]indole
A mixture of 4-fluorophenylhydrazine hydrochloride (1.83 g, 11.25 mM) and 1-indanone (1.49 g) in ethanol (20 cm3) was heated to reflux, and conc. hydrochloric acid was (1 cm3) added. Heating was continued for 5 hours, and the reaction mixture was cooled. The product which crystallised out from the cold solution as coloured platelets, was collected by filtration and dried (1.90 g, 75%). M.p. 225°-227° C. (from ethyl acetate/petrol [60°-80 ]). 1H NMR (CDCl3) δ: 8.3 (1H, br, s), 7.6-6.9 (7H, m), 3.70 (2H, s).

reactant | 4-fluorophenylhydrazine hydrochloride | 11.25 mM, 1.83 g | Cl.FC1=CC=C(C=C1)NN
reactant | 1-indanone | 1.49 g | C1(CCC2=CC=CC=C12)=O | C9H8O
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 20 cm3 | C(C)O | C2H6O
product | 5,10-Dihydro-8-fluoroindeno[1,2-b]indole | FC1=CC=2C3=C(NC2C=C1)C1=CC=CC=C1C3 | C15H10FN
